### PR TITLE
feat(ModularForms): add Cauchy estimates and boundedness infrastructure

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Cauchy estimates and boundedness infrastructure for modular form derivatives.

### Main Result

- `D_isBoundedAtImInfty_of_bounded`: D preserves boundedness at infinity for MDifferentiable functions

### Additional Results (Derivative.lean)

- `norm_D_le_of_sphere_bound`: Cauchy estimate for D-derivative on disks
- `serre_D_isBoundedAtImInfty`: serre_D preserves boundedness (general theorem)

### Additional Results (Eisenstein.lean)

- `norm_exp_two_pi_I_le_exp_neg_two_pi`: For im(z) ≥ 1, ‖exp(2πiz)‖ ≤ exp(-2π)
- `norm_tsum_logDeriv_expo_le`: Bound on q-series ‖∑ n·qⁿ/(1-qⁿ)‖ ≤ ‖q‖/(1-‖q‖)³
- `norm_tsum_logDeriv_expo_le_of_norm_le`: Monotone version for ‖q‖ ≤ r < 1 → bound by r/(1-r)³
- `E₂_isBoundedAtImInfty`: E₂ is bounded as im(z) → ∞

### Additional Results (summable_lems.lean)

- `tsum_pnat_coe_mul_geometric`: Closed form ∑ n·rⁿ over ℕ+ = r/(1-r)² for ‖r‖ < 1

### Additional Results (CoreRamanujan.lean)

- `D_E₄_isBoundedAtImInfty`: D(E₄) is bounded at infinity
- `serre_D_E₄_isBoundedAtImInfty`: serre_D 4 E₄ is bounded at infinity

### File Organization

- **Derivative.lean**: Core Cauchy estimates and general boundedness lemmas
- **Eisenstein.lean**: E₂ boundedness and q-series bounds (reusable helpers)
- **summable_lems.lean**: ℕ+ geometric series helpers
- **CoreRamanujan.lean**: E₄-specific boundedness (for PR #267 to build on)

### Test Plan

- [x] `lake build` passes
- [x] No sorries in CoreRamanujan.lean

### CODE REVIEW

File: SpherePacking/ModularForms/DerivativeBoundedness.lean [hunk 1]
```diff
@@ -0,0 +1,235 @@
...
+  -- Rewrite the sum in terms of q: exp(2πinz) = (exp(2πiz))^n = q^n
+  have hexp_pow : ∀ n : ℕ, cexp (2 * π * Complex.I * n * z) = q ^ n := fun n => by
+    rw [hq_def, ← Complex.exp_nat_mul]
+    congr 1
+    ring
+  have hsum_eq : (fun n : ℕ+ => ↑n * cexp (2 * π * Complex.I * ↑n * ↑z) /
+      (1 - cexp (2 * π * Complex.I * ↑n * ↑z))) =
+      (fun n : ℕ+ => ↑n * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))) := by
+    ext n
+    simp only [hexp_pow]
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/DerivativeBoundedness.lean]: terminal simps dont need to be squeezed.

File: SpherePacking/ModularForms/DerivativeBoundedness.lean [hunk 2]
```diff
@@ -0,0 +1,235 @@
...
+  -- Final: 24 * ‖tsum‖ ≤ 24 * r₀ / (1 - r₀)³
+  gcongr
+
+/-- E₄ is bounded at infinity (as a modular form). -/
+lemma E₄_isBoundedAtImInfty : IsBoundedAtImInfty E₄.toFun :=
+  ModularFormClass.bdd_at_infty E₄
+
+/-- The product E₂ · E₄ is bounded at infinity. -/
+lemma E₂_mul_E₄_isBoundedAtImInfty : IsBoundedAtImInfty (E₂ * E₄.toFun) := by
+  exact E₂_isBoundedAtImInfty.mul E₄_isBoundedAtImInfty
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/DerivativeBoundedness.lean]: Since the results already exists we dont need this as separate lemmas. Just use the ones already in mathlib where needed.

File: SpherePacking/ModularForms/DerivativeBoundedness.lean [hunk 3]
```diff
@@ -0,0 +1,235 @@
...
+  -- Key bounds on r₀
+  have hr₀_pos : 0 < r₀ := Real.exp_pos _
+  have hr₀_lt_one : r₀ < 1 := by
+    simp only [hr₀_def]
+    have hpi : 0 < π := Real.pi_pos
+    calc Real.exp (-2 * π) < Real.exp 0 := Real.exp_strictMono (by linarith)
+      _ = 1 := Real.exp_zero
+  have hone_sub_r₀_pos : 0 < 1 - r₀ := by linarith
+  -- Key bounds on q
+  have hq_lt_one : ‖q‖ < 1 := hq
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/DerivativeBoundedness.lean]: this is just `hq`, why give it a new name? just use `hq` where needed.

File: SpherePacking/ModularForms/DerivativeBoundedness.lean [hunk 4]
```diff
@@ -0,0 +1,187 @@
...
+so D(E₄) → 0 as im(z) → ∞.
+This is even stronger than boundedness: D(E₄) vanishes at infinity.
+
+**Proof outline**: D commutes with the q-expansion tsum (by uniform convergence),
+and D(qⁿ) = n·qⁿ for q = exp(2πiz) (up to normalizing constants).
+Since the sum has no q⁰ term, it vanishes as ‖q‖ → 0.
+
+**Blocker**: Need D-tsum interchange lemma. See Issue #90 for the q-expansion approach
+to Ramanujan's identities. Could use `D_E4_qexp` once that's proved. -/
+lemma D_E₄_isBoundedAtImInfty : IsBoundedAtImInfty (D E₄.toFun) := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/DerivativeBoundedness.lean]: This can be proved with `D_isBoundedAtImInfty_of_bounded` and the thing already in mathlib, right?

File: SpherePacking/ModularForms/DerivativeBoundedness.lean [hunk 5]
```diff
@@ -0,0 +1,187 @@
...
+  sorry
+
+/-- serre_D 4 E₄ is bounded at infinity. -/
+lemma serre_D_E₄_isBoundedAtImInfty : IsBoundedAtImInfty (serre_D 4 E₄.toFun) := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/DerivativeBoundedness.lean]: We can prove
```lean
theorem serre_D_isBoundedAtImInfty {f : ℍ → ℂ} (k : ℂ)
    (hf : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) f)
    (hbdd : IsBoundedAtImInfty f) : IsBoundedAtImInfty (serre_D k F) := by sorry
```
using the same method, right? (If restricting k to integers or reals makes proof shorter, than that would be better.)

File: SpherePacking/ModularForms/DerivativeBoundedness.lean [hunk 6]
```diff
@@ -0,0 +1,187 @@
...
+/-- E₂ is bounded at infinity.
+
+Uses `E₂_eq`: E₂(z) = 1 - 24·Σn·qⁿ/(1-qⁿ) where q = exp(2πiz).
+As im(z) → ∞, ‖q‖ → 0, so the sum → 0, hence E₂(z) → 1.
+
+**Proof strategy** (partially implemented below):
+1. For im(z) ≥ 1, |q| ≤ exp(-2π) < 0.002
+2. Bound: |n·q^n/(1-q^n)| ≤ n·|q|^n/(1-|q|) since |1-q^n| ≥ 1-|q| for n ≥ 1
+3. The tsum is bounded by |q|/(1-|q|)³ < 0.003
+4. Therefore |E₂| ≤ 1 + 24·0.003 < 2
```
Comment (seewoo5) [inline SpherePacking/ModularForms/DerivativeBoundedness.lean]: I cannot find this `0.003` in the proof - is this some hallucination from Claude?

Comment (cameronfreer) [reply SpherePacking/ModularForms/DerivativeBoundedness.lean]: Thanks for catching this -- I think it's a remnant from an earlier numerical bound that was trickier to prove and has since been superseded by symbolic expressions like exp(-2π). See 36b8df2627cf9355a0bd42ca37d2e271aa925715.

File: SpherePacking/ModularForms/CoreRamanujan.lean [hunk 7]
```diff
@@ -0,0 +1,52 @@
...
+open scoped ModularForm Topology Manifold
+
+noncomputable section
+
+/-- The Serre derivative of a bounded holomorphic function is bounded at infinity.
+
+serre_D k f = D f - (k/12)·E₂·f. Both terms are bounded:
+- D f is bounded by `D_isBoundedAtImInfty_of_bounded`
+- (k/12)·E₂·f is bounded since E₂ and f are bounded -/
+theorem serre_D_isBoundedAtImInfty {f : ℍ → ℂ} (k : ℂ)
```
Comment (seewoo5) [inline SpherePacking/ModularForms/CoreRamanujan.lean]: I meant to move this also to `Derivative.lean`, right below `D_isBoundedAtImInfty_of_bounded`. Only keep theorems for E4-specific in this file.

File: SpherePacking/ModularForms/DerivativeBoundedness.lean (hunk 4 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/DerivativeBoundedness.lean]: That worked, thanks -- see e874f709edbb50553522a504c59df85e8c07bf0e

File: SpherePacking/ModularForms/DerivativeBoundedness.lean (hunk 5 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/DerivativeBoundedness.lean]: Yes, thanks -- also in e874f709edbb50553522a504c59df85e8c07bf0e

Comment (cameronfreer) [reply SpherePacking/ModularForms/DerivativeBoundedness.lean]: Complex k was fine.

File: SpherePacking/ModularForms/Derivative.lean [hunk 8]
```diff
@@ -728,3 +730,177 @@ If $F(it)$ is positive for sufficiently large $t$, then $F(it)$ is positive for
...
+As im(z) → ∞, ‖q‖ → 0, so the sum → 0, hence E₂(z) → 1.
+
+**Proof strategy**:
+1. For im(z) ≥ 1, |q| ≤ r₀ := exp(-2π)
+2. Bound each term: |1-qⁿ| ≥ 1-|q|ⁿ ≥ 1-|q| (since |q|ⁿ ≤ |q| for n ≥ 1),
+   so |n·qⁿ/(1-qⁿ)| ≤ n·|q|ⁿ/(1-|q|)
+3. Sum: ∑ₙ₌₁ n·rⁿ = r/(1-r)² for r < 1, then multiply by 1/(1-r) to get
+   ∑ₙ₌₁ n·rⁿ/(1-r) = r/(1-r)³
+4. Therefore |E₂| ≤ 1 + 24·r₀/(1-r₀)³ -/
+lemma E₂_isBoundedAtImInfty : IsBoundedAtImInfty E₂ := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: I'm sorry, but now I think this is more suitable under `SpherePacking/ModularForms/Eisenstein.lean`. Also worths to be upstreamed at some point, unless @CBirkbeck already have it somewhere? (Not exactly this proof but after shortened a lot)

File: SpherePacking/ModularForms/CoreRamanujan.lean (hunk 7 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/CoreRamanujan.lean]: Ah ok, thanks -- though I think it needs to go a bit lower, below `E₂_isBoundedAtImInfty`.

Comment (cameronfreer) [reply SpherePacking/ModularForms/CoreRamanujan.lean]: see 5152dd849f9f4b54f63c5765da23e54067eb5aab

File: SpherePacking/ModularForms/Derivative.lean (hunk 8 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: No problem, moved in c44ab18cf011eb29031745ccc44b333bbf0f4648

Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: and I factored out the main calculation to a helper in 254fce4cc72766a22cce9d03b4ed633168c884a5

Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: But maybe that new `norm_tsum_logDeriv_expo_le` should go near `logDeriv_q_expo_summable` in `logDeriv_lems.lean`?

Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: and similarly for another helper `norm_tsum_logDeriv_expo_le_of_norm_le`?

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 9]
```diff
@@ -960,3 +961,96 @@ theorem E₂_imag_axis_real : ResToImagAxis.Real E₂ := by
...
+    rw [tsum_pNat (f := fun n => (n : ℝ) * r ^ n) (by simp)]
+    exact tsum_coe_mul_geometric_of_norm_lt_one hr_norm_lt_one
+  have hsum_majorant_eq : (∑' n : ℕ+, (n : ℝ) * r ^ (n : ℕ) / (1 - r)) = r / (1 - r) ^ 3 := by
+    simp [div_eq_mul_inv, tsum_mul_right, hsum_pnat, pow_succ]; ring
+  -- Final bound
+  calc ‖∑' n : ℕ+, (n : ℂ) * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))‖
+      ≤ ∑' n : ℕ+, ‖(n : ℂ) * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))‖ := norm_tsum_le_tsum_norm hsumm_norms
+    _ ≤ ∑' n : ℕ+, (n : ℝ) * r ^ (n : ℕ) / (1 - r) :=
+        Summable.tsum_le_tsum hterm_bound hsumm_norms hsumm_majorant
+    _ = r / (1 - r) ^ 3 := hsum_majorant_eq
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Eisenstein.lean]:
```suggestion
  have hr_norm_lt_one : ‖r‖ < 1 := by rwa [Real.norm_of_nonneg (norm_nonneg q)]
  have hsumm_nat : Summable (fun n : ℕ => (n : ℝ) * r ^ n) := by
    simpa [pow_one] using summable_pow_mul_geometric_of_norm_lt_one 1 hr_norm_lt_one
  have hsumm_majorant : Summable (fun n : ℕ+ => (n : ℝ) * r ^ (n : ℕ) / (1 - r)) := by
    simpa [div_eq_mul_inv] using (hsumm_nat.subtype _).mul_right (1 - r)⁻¹
  have hterm_bound : ∀ n : ℕ+, ‖(n : ℂ) * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))‖ ≤
      n * r ^ (n : ℕ) / (1 - r) := fun n => by
    rw [norm_div, norm_mul, Complex.norm_natCast]
    have hdenom_lower : 1 - r ≤ ‖1 - q ^ (n : ℕ)‖ := calc
      1 - r ≤ 1 - r ^ (n : ℕ) := by
        have : r ^ (n : ℕ) ≤ r := by simpa using pow_le_pow_of_le_one (norm_nonneg _) hq.le n.one_le
        linarith
      _ = 1 - ‖q ^ (n : ℕ)‖ := by rw [norm_pow]
      _ ≤ ‖1 - q ^ (n : ℕ)‖ := by
        have := norm_sub_norm_le (1 : ℂ) (q ^ (n : ℕ)); simp only [norm_one] at this; linarith
    calc ↑n * ‖q ^ (n : ℕ)‖ / ‖1 - q ^ (n : ℕ)‖ ≤ ↑n * ‖q ^ (n : ℕ)‖ / (1 - r) := by
          exact div_le_div_of_nonneg_left (mul_nonneg (Nat.cast_nonneg _) (norm_nonneg _))
            (sub_pos.mpr hq) hdenom_lower
      _ = ↑n * r ^ (n : ℕ) / (1 - r) := by rw [norm_pow]
  have hsumm_norms : Summable (fun n : ℕ+ => ‖(n : ℂ) * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))‖) :=
    .of_nonneg_of_le (fun _ => norm_nonneg _) hterm_bound hsumm_majorant
  calc ‖∑' n : ℕ+, (n : ℂ) * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))‖
      ≤ ∑' n : ℕ+, ‖(n : ℂ) * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))‖ := norm_tsum_le_tsum_norm hsumm_norms
    _ ≤ ∑' n : ℕ+, (n : ℝ) * r ^ (n : ℕ) / (1 - r) :=
        hsumm_norms.tsum_le_tsum hterm_bound hsumm_majorant
    _ = r / (1 - r) ^ 3 := by
        simp only [div_eq_mul_inv, tsum_mul_right,
          tsum_pNat (f := fun n => (n : ℝ) * r ^ n) (by simp),
          tsum_coe_mul_geometric_of_norm_lt_one hr_norm_lt_one, pow_succ]
        field_simp
```
This is done by Claude Opus 4.5, where I asked to reduce the number of `have`s by putting some of them directly into `calc`s. This seems a bit cleaner than before.

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 10]
```diff
@@ -960,3 +961,96 @@ theorem E₂_imag_axis_real : ResToImagAxis.Real E₂ := by
...
+      ≤ 1 + 24 * ‖∑' (n : ℕ+), ↑n * cexp (2 * π * Complex.I * ↑n * ↑z) /
+          (1 - cexp (2 * π * Complex.I * ↑n * ↑z))‖ := by
+        calc _ ≤ ‖(1 : ℂ)‖ + ‖24 * _‖ := norm_sub_le _ _
+          _ = _ := by simp
+    _ = 1 + 24 * ‖∑' n : ℕ+, (n : ℂ) * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))‖ := by rw [hsum_eq]
+    _ ≤ 1 + 24 * (‖q‖ / (1 - ‖q‖) ^ 3) := by gcongr; exact norm_tsum_logDeriv_expo_le hq
+    _ ≤ 1 + 24 * (r₀ / (1 - r₀) ^ 3) := by
+        have h1 : 0 < 1 - r₀ := sub_pos.mpr hr₀_lt_one
+        have h2 : 0 < 1 - ‖q‖ := sub_pos.mpr hq
+        gcongr
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Eisenstein.lean]:
```suggestion
  rw [UpperHalfPlane.isBoundedAtImInfty_iff]
  set r₀ : ℝ := Real.exp (-2 * π)
  have hr₀_lt_one : r₀ < 1 := Real.exp_lt_one_iff.mpr (by linarith [Real.pi_pos])
  refine ⟨1 + 24 * (r₀ / (1 - r₀) ^ 3), 1, fun z hz => ?_⟩
  rw [E₂_eq]
  set q : ℂ := cexp (2 * π * Complex.I * z) with hq_def
  have hq : ‖q‖ < 1 := norm_exp_two_pi_I_lt_one z
  have hq_bound : ‖q‖ ≤ r₀ := by
    rw [hq_def, Complex.norm_exp, show (2 * ↑π * Complex.I * (z : ℂ)).re = -2 * π * z.im by
      rw [show (2 : ℂ) * ↑π * Complex.I * z = Complex.I * (2 * π * z) by ring]
      simp [Complex.I_re, Complex.I_im, mul_comm], Real.exp_le_exp]
    nlinarith [Real.pi_pos]
  have hexp_pow : ∀ n : ℕ, cexp (2 * π * Complex.I * n * z) = q ^ n := fun n => by
    rw [hq_def, ← Complex.exp_nat_mul]; congr 1; ring
  calc ‖1 - 24 * ∑' (n : ℕ+), ↑n * cexp (2 * π * Complex.I * ↑n * ↑z) /
          (1 - cexp (2 * π * Complex.I * ↑n * ↑z))‖
      ≤ 1 + 24 * ‖∑' (n : ℕ+), ↑n * cexp (2 * π * Complex.I * ↑n * ↑z) /
          (1 - cexp (2 * π * Complex.I * ↑n * ↑z))‖ := by
        calc _ ≤ ‖(1 : ℂ)‖ + ‖24 * _‖ := norm_sub_le _ _
          _ = _ := by simp
    _ = 1 + 24 * ‖∑' n : ℕ+, (n : ℂ) * q ^ (n : ℕ) / (1 - q ^ (n : ℕ))‖ := by
        simp only [hexp_pow]
    _ ≤ 1 + 24 * (‖q‖ / (1 - ‖q‖) ^ 3) := by gcongr; exact norm_tsum_logDeriv_expo_le hq
    _ ≤ 1 + 24 * (r₀ / (1 - r₀) ^ 3) := by
        have h1 : 0 < 1 - r₀ := sub_pos.mpr hr₀_lt_one
        have h2 : 0 < 1 - ‖q‖ := sub_pos.mpr hq
        gcongr
```
Same for this, done by Claude.

File: SpherePacking/ModularForms/Derivative.lean (hunk 8 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/Derivative.lean]: Ideally yes, but let's keep these as-is. Some of the files including `logDeriv_lems.lean` will be eventually upstreamed and removed.

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 9 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: Thanks. In the meantime I had already factored most of this out to a helper lemma, but I can check if this shortening works there too

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 10 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: Thanks -- I think this too is referring to a version before I extracted the calculation, but I can check if this helps also

File: SpherePacking/ModularForms/Derivative.lean (hunk 8 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: I also factored out `tsum_pnat_coe_mul_geometric` (in `summable_lems.lean`) but I'm not sure if this is an improvement (probably depends on whether it gets reused?) -- happy to revert this if you prefer

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 9 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: see 14ca78a66f84fb8e861a429ce1c71aad46ea633a for analogous changes to the new helper

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 10 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: a few of these ideas still worked in what remained of the proof; see 30d4df129ed88f7639247b404cc3da3bc4899586

**Comment by seewoo5** [comment]
Thanks!
